US05006543
A mixture of 4-[1-(1,2,4-triazol-1-ylmethyl)-2-(4-trifluoromethylphenyl)vinyl]benzonitrile (0.05 g, mixed E and Z isomers) and 10% by weight palladium-on-carbon (0.02 g) in ethyl acetate (5 ml) was stirred rapidly under an atomosphere of hydrogen at atmospheric pressure for 2h. The mixture was filtered, and the filtrate was evaporated to dryness, to give 4-([2-(1,2,4-triazol-1-yl)-1-(4-trifluoromethylbenzyl)ethyl]benzonitrile as a white solid, which was washed with ethyl acetate and dried, m.p. 123°.

reactant | 4-[1-(1,2,4-triazol-1-ylmethyl)-2-(4-trifluoromethylphenyl)vinyl]benzonitrile | 0.05 g | N1(N=CN=C1)CC(=CC1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C#N)C=C1 | C19H13F3N4
reactant | hydrogen | [H][H] | H2
reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 0.02 g | [Pd] | Pd
product | [2-(1,2,4-triazol-1-yl)-1-(4-trifluoromethylbenzyl)ethyl]benzonitrile | N1(N=CN=C1)CC(CC1=CC=C(C=C1)C(F)(F)F)C1=C(C#N)C=CC=C1 | C19H15F3N4
